US06455507B1
2-Bromo-5-chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole
The title compound was prepared according to General Procedure IV using) 5-Chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.12 g, 0.28 mmol), 20 ml tetrahydrofuran (Aldrich Sure Seal, Milwaukee), and a total of 2.0 g (11 mmol) of N-bromosuccinimide that was added over 2 h. The product from work-up by General Procedure IV was partially purified on a silica gel column (2.5×20 cm, 230-400 mesh) with dichloromethane containing 0.5% methanol to give 2-Bromo-5-chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.097 g) of sufficient purity for the next step; 1H NMR (DMSO-d6) δ7.99 (s,1H), 7.66 (s, 1H), 5.93-5.90 (d, 1H, J=8.9 Hz), 5.69-5.62 (m, 3H), 4.02-3.92 (m, 2H), 2.41 (s, 3H), 2.20 (s, 3H), 1.99 (s, 3H), 1.73 (s, 3H).

reactant | 5-Chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.28 mmol, 0.12 g | ClC1=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO2)C=C1C | C19H21ClN2O7
reactant | N-bromosuccinimide | 11 mmol, 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Bromo-5-chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.097 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)C | C19H20BrClN2O7
